US09315521B2
2-{[(2,4-diethylpyridin-3-yl)methyl]sulfanyl-6-methylpyrimidin-4-ol (430 mg, 1.5 mmol) was stirred in methanol (65 mL) and a solution of 4 N HCl in dioxane (560 μL, 2.22 mmol) was added dropwise at 0° C. The mixture was stirred for 15 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(2,4-diethylpyridin-3-yl)methyl]sulfanyl-6-methylpyrimidin-4-ol hydrochloride (466 mg, 96% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.25-1.35 (m, 6H), 2.24 (s, 3H), 2.97 (q, J=7.6 Hz, 2H), 3.18 (q, J=7.6 Hz, 2H), 4.67 (s, 2H), 6.14 (s, 1H), 7.82 (d, J=6.1 Hz, 1H), 8.67 (d, J=6.1 Hz, 1H); LRMS (ES+) m/z 290 (35%, M+1).

reactant | [(2,4-diethylpyridin-3-yl)methyl]sulfanyl-6-methylpyrimidin-4-ol | 1.5 mmol, 430 mg | C(C)C1=NC=CC(=C1CSC1=NC(=CC(=N1)O)C)CC | C15H19N3OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 2.22 mmol, 560 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 65 mL | CO | CH4O
product | [(2,4-diethylpyridin-3-yl)methyl]sulfanyl-6-methylpyrimidin-4-ol hydrochloride | 466 mg, 96% yield | Cl.C(C)C1=NC=CC(=C1CSC1=NC(=CC(=N1)O)C)CC | InChI=1S/C15H19N3OS.ClH/c1-4-11-6-7-16-13(5-2)12(11)9-20-15-17-10(3)8-14(19)18-15;/h6-8H,4-5,9H2,1-3H3,(H,17,18,19);1H
